US08877815B2
To a solution of 1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxylic acid (150 mg, 0.572 mmol) in DMF (3 mL) were added EDC-HCl (110 mg, 0.572 mmol), HOAt (62.3 mg, 0.423 mmol) and triethylamine (0.133 mL, 0.953 mmol) at room temperature. After being stirred for 0.5 hours, (S)-2-(3-methylbiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethanamine (106 mg, 0.381 mmol) was added and stirred for 2 hours. The reaction mixture was diluted with EtOAc and washed with saturated NH4Cl aqueous solution and brine. The organic layer was dried over Na2SO4, concentrated under reduced pressure, and purified by silica gel flash column chromatography (10% MeOH in DCM/DCM) to give (S)-benzyl 2-(1-(2-(3′-methylbiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethylcarbamoyl)cyclopentyl)acetate. LCMS (condition A): 524 (M+1); retention time=1.82 min.

reactant | 1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxylic acid | 0.572 mmol, 150 mg | C(C1=CC=CC=C1)OC(CC1(CCCC1)C(=O)O)=O | C15H18O4
reactant | EDC-HCl | 0.572 mmol, 110 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOAt | 0.423 mmol, 62.3 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 0.953 mmol, 0.133 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-2-(3-methylbiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethanamine | 0.381 mmol, 106 mg | CC=1C=C(C=CC1C[C@H](N)C1=NN=NN1)C1=CC=CC=C1 | C16H17N5
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-benzyl 2-(1-(2-(3′-methylbiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethylcarbamoyl)cyclopentyl)acetate | CC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C1=NN=NN1)NC(=O)C1(CCCC1)CC(=O)OCC1=CC=CC=C1 | C31H33N5O3
